US03971800
e. 4-Ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester
26.7 g. of 5-amino-4-ethylamino-6-ethoxy-2-methylpyridine-3-carboxylic acid ethyl ester (0.1 mol.) are dissolved in 100 ml. of acetic acid. At room temperature 7.5 g. of sodium nitrite in 20 ml. of water are added dropwise with continual stirring. The temperature is kept below 20°. The mixture is stirred overnight and then evaporated to dryness. 100 ml. of water are added to the residue which is then extracted three times with 50 ml. portions of ether. The organic layer is collected, dried over sodium sulfate, filtered and the solvent distilled off. The residue of 4-ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester is recrystallized from ligroin, yield 75%, m.p. 56°-58°.

reactant | 5-amino-4-ethylamino-6-ethoxy-2-methylpyridine-3-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C(=NC(=C(C1NCC)N)OCC)C | C13H21N3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-Ethoxy-1-ethyl-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine-7-carboxylic acid ethyl ester | yield 75% | C(C)OC(=O)C=1C2=C(C(=NC1C)OCC)N=NN2CC | C13H18N4O3
